US06333358B1
In 30 ml of tetrahydrofuran were dissolved 2.65 g of N-(2-isopropoxybenzyl)-2-phenoxyaniline and 1.5 ml of triethylamine, and then 0.8 ml of acetyl chloride was added dropwise to the solution with stirring, followed by stirring for 30 minutes. The reaction mixture was poured to water and extracted with ethyl acetate, and the extract was washed with 0.5 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and then with a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:4) to give 2.92 g of N-acetyl-N-(2-isopropoxybenzyl)-2-phenoxyaniline as an oil.

reactant | N-(2-isopropoxybenzyl)-2-phenoxyaniline | 2.65 g | C(C)(C)OC1=C(CNC2=C(C=CC=C2)OC2=CC=CC=C2)C=CC=C1 | C22H23NO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-(2-isopropoxybenzyl)-2-phenoxyaniline | 2.92 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC(C)C | C24H25NO3
